### PR TITLE
[Merged by Bors] - feature(Algebra/Order/Ring/Basic): Add Odd.pow_eq_pow

### PR DESCRIPTION
**Pull request by mans0954**
Use the injectivity of strict monotonic functions to show that `a^n = b^n ↔ a = b` for `n` odd in a strict linear ordered semiring.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Defs.lean [hunk 1]
```diff
@@ -647,6 +647,10 @@ lemma pow_mul' (a : M) (m n : ℕ) : a ^ (m * n) = (a ^ n) ^ m := by rw [Nat.mul
 lemma pow_right_comm (a : M) (m n : ℕ) : (a ^ m) ^ n = (a ^ n) ^ m := by
   rw [← pow_mul, Nat.mul_comm, pow_mul]
 
+@[to_additive ns_mul_congr]
+lemma pow_congr {a b : M} (n : ℕ) (h : a = b) : a ^ n = b ^ n :=
+  congrFun (congrArg HPow.hPow h) n
```
Comment (urkud) [inline Mathlib/Algebra/Group/Defs.lean:652]: Please drop this lemma. Just `rw [h]` whenever you want to apply it.

File: Mathlib/Algebra/Order/Ring/Basic.lean [hunk 2]
```diff
@@ -290,4 +290,8 @@ alias pow_two_pos_of_ne_zero := sq_pos_of_ne_zero
 lemma pow_four_le_pow_two_of_pow_two_le (h : a ^ 2 ≤ b) : a ^ 4 ≤ b ^ 2 :=
   (pow_mul a 2 2).symm ▸ pow_le_pow_left₀ (sq_nonneg a) h 2
 
+@[simp]
+lemma pow_eq_iff_eq {n : ℕ} (hn : Odd n) {a b : R} : a^n = b^n ↔ a = b :=
+  ⟨fun h ↦ (Odd.strictMono_pow hn).injective h, pow_congr _⟩
```
Comment (urkud) [inline Mathlib/Algebra/Order/Ring/Basic.lean:295]: This lemma should go right after `Odd.strictMono_pow`, together with (here the last one is your lemma)
```lean
lemma Odd.pow_injective {n : ℕ} (hn : Odd n) : Injective (· ^ n : R → R) :=
  hn.strictMono_pow.injective

lemma Odd.pow_lt_pow {n : ℕ} (hn : Odd n) {a b : R} : a^n < b^n ↔ a < b :=
  hn.strictMono_pow.lt_iff_lt

lemma Odd.pow_le_pow {n : ℕ} (hn : Odd n) {a b : R} : a^n ≤ b^n ↔ a ≤ b :=
  hn.strictMono_pow.le_iff_le

lemma Odd.pow_eq_pow {n : ℕ} (hn : Odd n) {a b : R} : a^n = b^n ↔ a = b :=
  hn.pow_injective.eq_iff
```
It should be in the `Odd` namespace and I don't think that it should be a `simp` lemma.

File: Mathlib/Algebra/Group/Defs.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/Algebra/Group/Defs.lean]: Okay.

**Comment by urkud** [comment]
Thanks! I contributed too much to this PR to merge it myself, so let me run
maintainer merge
instead.

File: Mathlib/Algebra/Order/Ring/Basic.lean [hunk 3]
```diff
@@ -282,6 +282,18 @@ lemma Odd.strictMono_pow (hn : Odd n) : StrictMono fun a : R => a ^ n := by
   refine lt_of_add_lt_add_right (a := a + b) ?_
   rwa [add_rotate', ← hbd, add_zero, add_left_comm, ← add_assoc, ← hac, zero_add]
 
+lemma Odd.pow_injective {n : ℕ} (hn : Odd n) : Injective (· ^ n : R → R) :=
+  hn.strictMono_pow.injective
+
+lemma Odd.pow_lt_pow {n : ℕ} (hn : Odd n) {a b : R} : a^n < b^n ↔ a < b :=
```
Comment (adomani) [inline Mathlib/Algebra/Order/Ring/Basic.lean:288]:
```suggestion
lemma Odd.pow_lt_pow {n : ℕ} (hn : Odd n) {a b : R} : a ^ n < b ^ n ↔ a < b :=
```

File: Mathlib/Algebra/Order/Ring/Basic.lean [hunk 4]
```diff
@@ -282,6 +282,18 @@ lemma Odd.strictMono_pow (hn : Odd n) : StrictMono fun a : R => a ^ n := by
...
+  hn.strictMono_pow.lt_iff_lt
+
+lemma Odd.pow_le_pow {n : ℕ} (hn : Odd n) {a b : R} : a^n ≤ b^n ↔ a ≤ b :=
```
Comment (adomani) [inline Mathlib/Algebra/Order/Ring/Basic.lean:291]:
```suggestion
lemma Odd.pow_le_pow {n : ℕ} (hn : Odd n) {a b : R} : a ^ n ≤ b ^ n ↔ a ≤ b :=
```

File: Mathlib/Algebra/Order/Ring/Basic.lean [hunk 5]
```diff
@@ -282,6 +282,18 @@ lemma Odd.strictMono_pow (hn : Odd n) : StrictMono fun a : R => a ^ n := by
...
+  hn.strictMono_pow.le_iff_le
+
+lemma Odd.pow_eq_pow {n : ℕ} (hn : Odd n) {a b : R} : a^n = b^n ↔ a = b :=
```
Comment (adomani) [inline Mathlib/Algebra/Order/Ring/Basic.lean:294]:
```suggestion
lemma Odd.pow_eq_pow {n : ℕ} (hn : Odd n) {a b : R} : a ^ n = b ^ n ↔ a = b :=
```

Comment (riccardobrasca) [inline Mathlib/Algebra/Order/Ring/Basic.lean:294]:
```suggestion
lemma Odd.pow_inj{n : ℕ} (hn : Odd n) {a b : R} : a^n = b^n ↔ a = b :=
```
See the [naming convention](https://leanprover-community.github.io/contribute/naming.html#injectivity).

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Review by adomani — COMMENTED** [review]
Just some spacing issues.

File: Mathlib/Algebra/Order/Ring/Basic.lean (hunk 5 above)
Comment (mans0954) [reply Mathlib/Algebra/Order/Ring/Basic.lean]: Done, thanks.

File: Mathlib/Algebra/Order/Ring/Basic.lean [hunk 6]
```diff
@@ -282,6 +282,18 @@ lemma Odd.strictMono_pow (hn : Odd n) : StrictMono fun a : R => a ^ n := by
...
+lemma Odd.pow_injective {n : ℕ} (hn : Odd n) : Injective (· ^ n : R → R) :=
+  hn.strictMono_pow.injective
+
+lemma Odd.pow_lt_pow {n : ℕ} (hn : Odd n) {a b : R} : a ^ n < b ^ n ↔ a < b :=
+  hn.strictMono_pow.lt_iff_lt
+
+lemma Odd.pow_le_pow {n : ℕ} (hn : Odd n) {a b : R} : a ^ n ≤ b ^ n ↔ a ≤ b :=
+  hn.strictMono_pow.le_iff_le
+
+lemma Odd.pow_inj{n : ℕ} (hn : Odd n) {a b : R} : a ^ n = b ^ n ↔ a = b :=
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Order/Ring/Basic.lean:294]:
```suggestion
lemma Odd.pow_inj {n : ℕ} (hn : Odd n) {a b : R} : a ^ n = b ^ n ↔ a = b :=
```
